US04769369
6-[2-(4-methoxyphenyl)ethyl]-2-[3-(dimethylamino)propyl]phthalazin-1(2H)-on
6-[2-(4-methoxyphenyl)ethenyl]-2-[3-(dimethylamino)propyl]phthalazin-1(2H)-one (9 gm) was dissolved in 200 ml methoxyethanol and reduced on a Parr hydrogenator using 1 gm of 10% palladium on carbon as catalyst. Reduction was complete within 2 hours. The catalyst was filtered off, the solvent removed on a rotary evaporator and the residue recrystallized from 500 ml of isoproanol. The product weighed 8.3 gm and melted at 201°-203° C.

reactant | 6-[2-(4-methoxyphenyl)ethenyl]-2-[3-(dimethylamino)propyl]phthalazin-1(2H)-one | 9 gm | COC1=CC=C(C=C1)C=CC=1C=C2C=NN(C(C2=CC1)=O)CCCN(C)C | C22H25N3O2
solvent | methoxyethanol | 200 ml | COC(C)O | C3H8O2
catalyst | palladium on carbon | 1 gm | [Pd] | Pd
product | 6-[2-(4-methoxyphenyl)ethyl]-2-[3-(dimethylamino)propyl]phthalazin-1(2H)-on | COC1=CC=C(C=C1)CCC=1C=C2C=NN(C(C2=CC1)=O)CCCN(C)C | C22H27N3O2
